US06730418B2
First, 3,5-bis(trifluoromethyl)phenylmagnesium bromide prepared from Mg and 3,5-bis(trifluoromethyl)bromobenzene was dropped into a THF solution of 4-chloro-2,6-dimethylquinoline (1 g) andNi(dpp)Cl2 (dpp: 1,3-bis(diphenylphosphino)propane) (0.1 g). Reactions were allowed to take place for 24 hours at room temperature. Water was added to the reaction solution and the organic layer was extracted using CHCl3. The solvent was removed under reduced pressure and the residue was purified through column chromatography to obtain 2,6-dimethyl-4-[3,5-bis(trifluoromethyl)phenyl]quinoline (0.5 g).

reactant | 3,5-bis(trifluoromethyl)phenylmagnesium bromide | FC(C=1C=C(C=C(C1)C(F)(F)F)[Mg]Br)(F)F
reactant | 3,5-bis(trifluoromethyl)bromobenzene | FC(C=1C=C(C=C(C1)C(F)(F)F)Br)(F)F | C8H3BrF6
reactant | 4-chloro-2,6-dimethylquinoline | 1 g | ClC1=CC(=NC2=CC=C(C=C12)C)C | C11H10ClN
reactant | 1,3-bis(diphenylphosphino)propane | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
solvent | Water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 2,6-dimethyl-4-[3,5-bis(trifluoromethyl)phenyl]quinoline | 0.5 g | CC1=NC2=CC=C(C=C2C(=C1)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C19H13F6N
